US07732461B2
(d) Furo[2,3-c]pyridin-5-ylmethanol
Also to yield the desired compound: Furo[2,3-c]pyridin-5-ylmethyl acetate (1.15 g, 6 mmol) was dissolved in 1,4-dioxane (30 ml) and water (10 ml) and treated with 2N sodium hydroxide solution (12 ml) and stirred at RT for 18 h. The mixture was then partitioned between ethyl acetate and water, the organic layer was dried and evaporated to dryness to provide the desired compound (0.63 g).

reactant | Furo[2,3-c]pyridin-5-ylmethyl acetate | 6 mmol, 1.15 g | C(C)(=O)OCC=1C=C2C(=CN1)OC=C2 | C10H9NO3
reactant | water | 10 ml | O | H2O
reactant | sodium hydroxide | 2N, 12 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | Furo[2,3-c]pyridin-5-ylmethanol | 0.63 g | O1C=CC=2C1=CN=C(C2)CO | C8H7NO2
